US04493726
2-p-Tolyl-4,6-dimethoxypyrimidine
156.1 g of a 30.5% solution of sodium methylate are stirred with 700 ml of anhydrous methanol. To the solution are then added, over 10 minutes and with gentle cooling, 95.64 g of 2-p-tolyl-4,6-dichloropyrimidine. The mixture is then heated to reflux and kept at the boil for 4 hours. The solvent is removed by distillation and the residue is charged into 1000 ml of water. The product is triturated with water to remove sodium chloride, isolated by filtration, washed with water and dried in the air, affording 90.4 g of the title compound with a melting point of 61°-62° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-p-tolyl-4,6-dichloropyrimidine | 95.64 g | C1(=CC=C(C=C1)C1=NC(=CC(=N1)Cl)Cl)C | C11H8Cl2N2
reactant | methanol | 700 ml | CO | CH4O
product | 2-p-Tolyl-4,6-dimethoxypyrimidine | 90.4 g | C1(=CC=C(C=C1)C1=NC(=CC(=N1)OC)OC)C | C13H14N2O2
